US04307230
A solution of 2-(2-tritylamino-thiazol-4-yl)-2-methoxyimino-acetic acid anhydride (syn isomer) (7.2 g) in methylene chloride (22.5 cc) is added, in a single shot, to a solution of 7-amino-2-benzhydryloxycarbonyl-3-methyl-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene (3.15 g) in methylene chloride (31.5 cc). The temperature rises from 8° to 14° C. The mixture is kept stirred for one hour 15 minutes, during which the temperature rises to 20° C., and is then washed with 0.5N hydrochloric acid (10 cc), distilled water (10 cc) and a saturated sodium bicarbonate solution (20 cc). The insoluble matter formed is filtered off, and the organic phase is washed again with distilled water (2×20 cc), dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (20 mm Hg) at 40° C. The residue is chromatographed on a column (diameter: 3 cm, height: 33 cm) containing silica gel (125 g), elution being carried out with a 20:80 (by volume) mixture of ethyl acetate and cyclohexane (1.2 liters) and then with a 40:60 (by volume) mixture (1 liter), and 50 cc fractions of eluate being collected. Fractions 31 to 44 are evaporated and 2-benzhydryloxycarbonyl-7-[2-methoxyimino-2-(2-tritylamino-thiazol-4-yl)-acetamido]-3-methyl-8oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene, syn isomer (2.8 g) is obtained in the form of a pale yellow solid.

reactant | 2-(2-tritylamino-thiazol-4-yl)-2-methoxyimino-acetic acid anhydride | 7.2 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)OC(C(C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=NOC)=O)=NOC | C50H40N6O5S2
reactant | 7-amino-2-benzhydryloxycarbonyl-3-methyl-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene | 3.15 g | NC1C2SCC(=C(N2C1=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C | C21H20N2O3S
solvent | methylene chloride | 22.5 cc | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 31.5 cc | C(Cl)Cl | CH2Cl2
product | 2-benzhydryloxycarbonyl-7-[2-methoxyimino-2-(2-tritylamino-thiazol-4-yl)-acetamido]-3-methyl-8oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C)NC(C(C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=NOC)=O)=O | C46H39N5O5S2
